* Stage C — extraction-backed parasitic hook (GitHub issue #74).
* Included before `manual_parasitics.cir` from `overlay.cir` and `ac_small_signal.cir` so transient + AC passes share the same layout-adjacent augment.
*
* Output distribution (hand-maintained estimate): ~20 mΩ + ~2 nH from regulated sense net `/VOUT_+3.3v`
* (feedback + bulk caps at IC) to load sink node `VOUT_LOAD_END`. `II_LOAD` in overlay / AC deck attaches there.
* Source: order-of-magnitude trace + connector impedance; replace when extraction tooling is pinned (see sim/OVERLAY-PARASITICS.md).
*
RVOUT_DIST /VOUT_+3.3v VOUT_LOAD_A 0.02
LVOUT_DIST VOUT_LOAD_A VOUT_LOAD_END 2n
